US08314097B2
(3-Fluoro-4-methoxyphenyl)acetic acid (5.0 g, 27.1 mmol) is dissolved in MeOH (100 mL). To it is added concentrated H2SO4 (5 mL) and the solution is warmed to reflux for 2 h. At that point, the solution is evaporated to dryness and taken up in EtOAc. The solution is washed with saturated aqueous NaHCO3, dried (Na2SO4) and evaporated to give (3-fluoro-4-methoxyphenyl)acetic acid methyl ester (cas# 588-14-7) as a yellow oil. MS (ESI) m/z 199.3 (M+H).

reactant | (3-Fluoro-4-methoxyphenyl)acetic acid | 27.1 mmol, 5.0 g | FC=1C=C(C=CC1OC)CC(=O)O | C9H9FO3
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 100 mL | CO | CH4O
product | (3-fluoro-4-methoxyphenyl)acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)F)=O | C10H11FO3
